US07144897B2
Methyl 2-acetamidoacrylate (LXXX, 5.0 g, 34 mmole) and 4-mercaptoheptane (4.6 g, 34 mmole) in methanol (50 ml) are mixed. Triethylamine (3.6 g, 36 mmole) is added and the mixture is stirred at 20–25° for 45 minutes. The reaction vessel is then treated with oxone (47.2 g, 77 mmole). After 90 minutes HPLC indicated complete oxidation to the desired sulfone (LXXXII). The reaction mixture is filtered and concentrated under reduced pressure. The residue is partitioned between ethyl acetate and water and the organic phase is separate and is washed with saline, dried over sodium sulfate, and concentrated under reduced pressure to give methyl N-acetyl-3-[(1-propylbutyl)sulfonyl]alaninate (LXXXII), M+H=308 g/m.

reactant | Methyl 2-acetamidoacrylate | 34 mmole, 5.0 g | C(C)(=O)NC(C(=O)OC)=C | C6H9NO3
reactant | 4-mercaptoheptane | 34 mmole, 4.6 g | SC(CCC)CCC | C7H16S
reactant | Triethylamine | 36 mmole, 3.6 g | C(C)N(CC)CC | C6H15N
reactant | oxone | 77 mmole, 47.2 g | OOS(=O)[O-].[K+]
solvent | methanol | 50 ml | CO | CH4O
product | methyl N-acetyl-3-[(1-propylbutyl)sulfonyl]alaninate | C(C)(=O)N[C@@H](CS(=O)(=O)C(CCC)CCC)C(=O)OC | C13H25NO5S
